* KiCad Eeschema generated SPICE netlist with model include
.include "models/ideal_diode.lib"
V1 in 0 PULSE(0 5 0 1n 1n 10u 20u)
R1 in out 1k
D1 out 0 DIDEAL
.tran 100n 40u
.end
